US04940710
1-Cyclopropyl-7-(3-cyclopropyl-4-methyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 210 mg of 1-cyclopropyl-7-(3-cyclopropyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.24 ml of 37% formaldehyde and 0.30 ml of 90% formic acid was heated at 100° C. for 4 hours, then allowed to cool and the excess reagents removed under reduced pressure. Water was added and the pH adjusted to 7 with 1N sodium hydroxide. The mixture was then extracted several times with chloroform:methanol (95:5), the extracts combined, dried, filtered and evaporated. The resulting oil was triturated with ether, giving 170 mg of the desired product.

reactant | 1-cyclopropyl-7-(3-cyclopropyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 210 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C1CC1)F)=O)C(=O)O | C20H22FN3O3
reactant | formaldehyde | 0.24 ml | C=O | CH2O
solvent | formic acid | 0.30 ml | C(=O)O | CH2O2
product | 1-Cyclopropyl-7-(3-cyclopropyl-4-methyl-1-piperazinyl)-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 170 mg | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(N(CC1)C)C1CC1)F)=O)C(=O)O | C21H24FN3O3
